US09102591B2
Ethyl 3-phenyl-3-(pyridazin-4-yl)propanoate
To a solution of (E)-ethyl 3-phenyl-3-(pyridazin-4-yl)acrylate (1.8 g, 7.09 mmol) in PhMe (40 mL), TsNHNH2 (2.64 g, 14.2 mmol) and Et3N (2.15 g, 21.3 mmol) was added, the resulting mixture was heated to 100° C. overnight. The reaction was detected by TLC, TLC showed the appearance of desired product, then, the solvent was removed under reduced pressure, H2O was added and extracted with AcOEt (3×50 ml), the combined organic layers were washed by brine, dried over Na2SO4 and concentrated to get the crude product, which was purified by column chromatography on silica gel (Petroleum Ether: EtOAc=3:2) to afford ethyl 3-phenyl-3-(pyridazin-4-yl)propanoate (1.20 g, yield: 66%). 1H NMR (CDCl3 400 MHz):δ9.12 (d, J=2.0 Hz, 1H), 9.09 (d, J=6.8 Hz, 1H), 7.40-7.24 (m, 4H), 7.20 (d, J=7.2 Hz, 2H), 4.56 (t, J=8.0 Hz, 1H), 4.08 (q, J=7.2 Hz, 2H), 3.09 (d, J=8.0 Hz, 2H), 1.15 (t, J=7.2 Hz, 3H).

reactant | (E)-ethyl 3-phenyl-3-(pyridazin-4-yl)acrylate | 7.09 mmol, 1.8 g | C1(=CC=CC=C1)\C(=C/C(=O)OCC)\C1=CN=NC=C1 | C15H14N2O2
reactant | TsNHNH2 | 14.2 mmol, 2.64 g | S(=O)(=O)(C1=CC=C(C)C=C1)NN | C7H10N2O2S
reactant | Et3N | 21.3 mmol, 2.15 g | CCN(CC)CC | C6H15N
solvent | PhMe | 40 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 3-phenyl-3-(pyridazin-4-yl)propanoate | C1(=CC=CC=C1)C(CC(=O)OCC)C1=CN=NC=C1 | C15H16N2O2
